US09447046B2
Preparation 27a: 7-[4-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1-benzopyran-4-one
To a solution of 7-bromo-4-chromanone (1.0 g, 4.4 mmol) in DMF (15 mL) was added [4-(trifluoromethyl)phenyl]boronic acid (1.25 g, 6.6 mmol), Pd(PPh3)4 (580 mg, 0.5 mmol) and K2CO3 (1.22 g, 8.8 mmol). The mixture was stirred at 105° C. for 4 h under nitrogen. The mixture was filtered and concentrated, and the residue was purified by silica gel chromatography (PE:EtOAc=4:1) to give 830 mg (61%) of the title compound as white solid. [M+H] Calc'd for C16H11F3O2, 293. Found, 293.

reactant | 7-bromo-4-chromanone | 4.4 mmol, 1.0 g | BrC1=CC=C2C(CCOC2=C1)=O | C9H7BrO2
reactant | [4-(trifluoromethyl)phenyl]boronic acid | 6.6 mmol, 1.25 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 8.8 mmol, 1.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.5 mmol, 580 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[4-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1-benzopyran-4-one | 830 mg, 61% | FC(C1=CC=C(C=C1)C1=CC2=C(C(CCO2)=O)C=C1)(F)F | C16H11F3O2
